US05180824
Synthesis of 9-(2,3,5-Tri-O-benzyl-β-D-Arabinofuranosyl)-2-fluoroadenine
A mixture of 2-fluoroadenine (0.50 g), 2,3,5-tri-O-benzyl-1-α-D-arabinofuranosyl chloride (freshly prepared from 2.22 g of 2,3,5-Tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose) and N,N-diisopropylethylamine (0.56 mL) in anhydrous N,N-dimethylformamide (10 mL) was stirred at ambient temperature for 3 days under a nitrogen atmosphere. The mixture was then concentrated under high vacuum and the residue was partitioned between dichloromethane (200 mL) and water (25 mL). The organic phase was washed sequentially with saturated NaCl (50 mL), 1M H3PO4 (50 mL) and saturated NaCl (25 mL), and was then dried over MgSO4 and decolorizing carbon. The dried solution was filtered and concentrated under vacuum. The residue was purified by silica gel chromotography with 1% methanol in dichloromethane as eluant. The appropriate fractions were combined and recrystalized from ethanol/toluene to obtain 0.39 g of the title compound. This material was identical by IR and TLC with an authentic sample.

reactant | 2-fluoroadenine | 0.50 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
reactant | 2,3,5-Tri-O-benzyl-1-O-p-nitrobenzoyl-D-arabinofuranose | 2.22 g | C(C1=CC=CC=C1)O[C@@H]1C(OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C33H31NO8
reactant | N,N-diisopropylethylamine | 0.56 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 9-(2,3,5-Tri-O-benzyl-β-D-Arabinofuranosyl)-2-fluoroadenine | 0.39 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N)F | C31H30FN5O4
